US08541584B2
3.5 88 mg (0.63 mmol) of potassium carbonate are added to a solution of 115 mg (0.25 mmol) of tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate in 1.3 ml of methanol, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with dichloromethane/methanol/ammonia water, giving 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine as colourless crystals; ESI 356;

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate | 0.25 mmol, 115 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=NN(C2)C)C(=O)OC(C)(C)C | C25H25N7O2
solvent | methanol | 1.3 ml | CO | CH4O
product | 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CNC2=NC=C(C=C21)C=2C=NN(C2)C | C20H17N7
